Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ ___ man with a reported history of 
cardiomyopathy status post PPM who was BIBA after witnessed fall 
from standing earlier today. 

EMS found him sitting on a rolling walker with bystanders and 
his son on scene who reported seeing the patient pass out on the 
sidewalk. He was noted to be lethargic and nonverbal during 
evaluation and transport. On arrival to the
hospital, he became more alert. 

Mr. ___ says he fell from standing while trying to mail a 
letter after feeling dizzy and falling backwards onto his 
bottom. He denies any head strike, loss of consciousness, nausea 
or vomiting. Patient denies any associated chest pain or 
shortness of breath. Patient denies any cough, dysuria, 
abdominal pain, or dizziness now. Patient ambulates without 
assistive devices at baseline.
 
In the ED, initial VS were: 
Temp 98.2F  HR 61  BP 104/49  RR 17  SaO2 99% RA 

Exam notable for:
Some crepitus of left shoulder but full range of motion
bilaterally. Exam negative for any apparent trauma

Labs showed:
Negative Utox, STox, unremarkable UA, Hgb 10.4, ___ to 1.3,
Troponin to 0.03->0.02. Initial fingerstick 111. 

EKG: 
Atrial paced rate @60bpm, NA, NI, Early R-wave progression, STE
V2

Imaging showed: 
Left shoulder XR: No fracture or dislocation.
CXR: No acute cardiopulmonary process, no focal consolidation

CT Head: 
1. No acute intracranial process.
2. A peripherally calcific 1.2 cm suprasellar structure which is
not acute in nature. Differential considerations include mass
such as craniopharyngioma versus meningioma. An aneurysm is less
likely but not entirely excluded.

CT Spine: No acute fracture or traumatic malalignment of the
cervical spine.

CTA Head/Neck preliminary read without acute abnormality

Received:
___ 22:40 IV OLANZapine 10 mg 
___ 00:40 IM LORazepam 1 mg 

Neurosurgery were consulted. "CTA reviewed, no evidence of
aneurysm or vascular abnormality. They recommended scheduling
outpatient MRI w/wo contrast and follow up in clinic with neuro
oncology. 

On arrival to the floor, first with phone translator and then 
with translator in person, patient reports feeling fine with no 
pain and confirms history above. He says that he did not have 
any odd feelings before he fell besides dizziness, denies 
palpitations, sweating, chest pain, nausea/abdominal pain.
Reports he remembers falling, denies feeling unbalanced or 
seeing his surroundings spinning. He reports loss of 
consciousness. He had to be repeatedly prompted to answer 
questions and often answered incompletely or inappropriately to 
questioning (e.g. "this is my finger" when asked to touch 
doctor's finger during cerebellar testing, at one time notes his 
son has a PPM, later denies having a son). 

Attempted to contact daughter in law for more information, was 
unable to reach her or leave a message.
 
Past Medical History:
1. Dementia of unknown etiology (vascular vs. EtOH vs. 
Alzheimer)
2. CKD stage III 
3. Sick sinus syndrome status post PPM placement
4. Colon cancer 
5. DVTs status post IVC filter placement 
 
Social History:
___
Family History:
Denies family history of stroke, heart attack, syncope.
 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================

VS: Temp 97.7  BP 165/50  HR 63  RR 18  SaO2 100% RA 
Orthostatics: lying 175/70, standing 138/69
GENERAL: NAD, appears chronically ill
HEENT: AT/NC, anicteric sclera, pink conjunctiva, dry mucous 
membranes. Prominent opacity of left eye lens. Was not able to 
prompt ocular tracking. Pupillary reflex difficult to ascertain. 
Patient endorses ability to see a bright light.
NECK: supple, no LAD, no JVD  
HEART: RRR, S1 difficult to assess, prominent S2, no murmurs, 
gallops, or rubs  
LUNGS: CTAB with poor air movement, no wheezes, rales, rhonchi, 
breathing comfortably without use of accessory muscles  
ABDOMEN: Scar from ?exlap and another ~6cm scar in LLQ visible. 
3-4cm diameter region of erythema with ?hemorrhagic crust 
directly above umbilicus. Abdomen soft, nondistended, nontender 
in all quadrants, no rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox1-2, limited by patient ?deafness/blindness and 
communication, face appears symmetric, eye movement grossly 
intact, CN IX-XII intact, ___ strength b/l in UEs, 
plantarflexion, dorsiflexion.
SKIN: warm and well perfused, multiple patches of dark 
erythema/purpura along arms bilaterally

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================

VS: T 97.0  BP 138/65  HR 66  RR 18  SaO2 95% RA
GENERAL: lying comfortably in bed, no apparent distress 
HEENT: anicteric sclera, no conjunctival pallor, MMM
NECK: supple, non-tender no LAD, no elevated JVD
CV: RRR, normal S1 and S2, no murmurs/rubs/gallops 
RESP: CTAB but with poor air movement due to poor respiratory 
effort, no wheezes, rales, or rhonchi  
___: soft, non-tender, non-distended. No HSM. Multiple old 
abdominal surgical scars. 
EXTREMITIES: warm and well perfused, no cyanosis, clubbing, or 
edema 
NEURO: Alert, oriented only to self. Otherwise grossly intact, 
with no focal neurological deficits.
 
Pertinent Results:
===============
ADMISSION LABS:
===============

___ WBC-6.2 RBC-3.56* Hgb-10.4* Hct-33.3* MCV-94 MCH-29.2 
MCHC-31.2* RDW-13.9 RDWSD-47.2* Plt ___
___ Neuts-68.0 ___ Monos-10.0 Eos-1.6 Baso-0.6 Im 
___ AbsNeut-4.22 AbsLymp-1.20 AbsMono-0.62 AbsEos-0.10 
AbsBaso-0.04
___ ___ PTT-27.6 ___
___ Glucose-91 UreaN-28 Creat-1.3 Na-143 K-4.8 Cl-102 
HCO3-22 AnGap-19
___ ALT-22 AST-30 AlkPhos-85 TotBili-<0.2
___ Lipase-59
___ 03:19PM cTropnT-0.03*
___ 10:50PM cTropnT-0.02*
___ Albumin-3.8 Calcium-8.7 Phos-3.7 Mg-2.4
___ VitB12-615
___ %HbA1c-5.9 eAG-123
___ TSH-0.88
___ ASA-NEG Ethanol-NEG Acetmnp-NEG Bnzodzp-NEG Barbitr-NEG 
Tricycl-NEG
___ URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG GLUCOSE-NEG 
KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-NEG
___ URINE  COLOR-Straw APPEAR-Clear SP ___
___ URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

======
MICRO:
======

___ URINE       
         URINE CULTURE: 
         MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
         AND/OR GENITAL CONTAMINATION

___ BLOOD CULTURE 1.
         Blood Culture:      No growth to date of discharge

___ BLOOD CULTURE 2.
         Blood Culture:      No growth to date of discharge

================
IMAGING/REPORTS:
================

___ CT C-SPINE WITH CONTRAST
No acute fracture or traumatic malalignment of the cervical 
spine. 
Degenerative changes resulting in moderate canal narrowing at 
the C3-4 and 
C4-5 levels with probable remodeling of the cord at these 
levels. 

___ CT HEAD WIHTOUT CONTRAST
No acute intracranial process, no hemorrhage. A lobulated 
partially calcific 1.2 cm suprasellar structure which is not 
acute in nature.  Differential considerations include mass such 
as craniopharyngioma versus meningioma. An aneurysm is less 
likely but not entirely excluded.  Nonemergent MR is recommended 
for further evaluation.

___ CXR
Lungs are clear without consolidation, effusion, or edema. Left 
chest wall dual lead pacing device is noted. Cardiomediastinal 
silhouette is within 
normal limits. Atherosclerotic calcifications noted at the 
aortic arch.  IVC filter is partially visualized. 

___ LEFT GLENO-HUMERAL XRAY
There is no fracture. Glenohumeral joint is anatomically 
aligned.  Moderate degenerative changes noted at the 
acromioclavicular joint which is otherwise within normal limits. 
Included portion of the left hemithorax is unremarkable where 
not obscured by overlying pacer device. 

___ CTA HEAD AND CTA NECK
12 mm mass within the suprasellar cistern, with areas of 
peripheral and 
internal calcification. The mass results in superior 
displacement of the 
optic chiasm and floor of hypothalamus. The differential 
includes 
craniopharyngioma, dermoid, and/or thrombosed aneurysm. Moderate 
intracranial atherosclerosis moderate narrowing of the 
supraclinoid segment of the right internal carotid artery. 
Moderate extracranial atherosclerosis, with 50-70% narrowing of 
the bilateral carotid arteries at the carotid bulbs by NASCET 
criteria. Dental caries. Recommend nonemergent dental 
consultation. 

___ TTE
There is mild symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. Overall left ventricular systolic function is normal 
(LVEF = 70%). There is no left ventricular outflow obstruction 
at rest or with Valsalva. Right ventricular chamber size and 
free wall motion are normal. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. Mild to 
moderate (___) aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Trivial mitral regurgitation is 
seen. Moderate [2+] tricuspid regurgitation is seen. [Due to 
acoustic shadowing, the severity of tricuspid regurgitation may 
be significantly UNDERestimated.] The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion.  

===============
DISCHARGE LABS:
===============

Patient refusing labs
 
Brief Hospital Course:
___ with advanced dementia, stage III CKD, sick sinus syndrome 
with PPM placement in ___, and a background history of colon 
cancer and DVT status post IVC filter placement, who was BIBA 
following an episode of syncope.

====================
ACUTE/ACTIVE ISSUES:
====================

# Syncope
Patient presented following an episode of syncope. He reported 
feeling dizzy beforehand, before falling backwards on to his 
bottom. Imaging in ED unremarkable for head trauma/bleed, 
C-spine trauma or left shoulder fracture (given left shoulder 
pain). Patient with similar presentation in the past to ___, 
where extensive work-up was unrevealing. Possible etiologies 
included cardiogenic, neurogenic, orthostatic, infectious or 
vagal hyperactivity. From a cardiogenic point of view, 
echocardiography with no explanatory findings, EKG with 
appropriate atrial pacing and normal rhythm, and pacemaker 
interrogation negative for abnormal function. Blood and urine 
cultures with no growth at the time of discharge. Orthostatic 
vital signs initially negative, however on morning of ___ 
patient had episode of syncope when walking with ___. Further 
episode ___ when standing from bed, with orthostatic drop. 
Concern for possible seizure given post-ictal state and urinary 
incontinence ___, although no limb jerking or tongue biting. 
Patient refused EEG. Most likely etiology following work-up was 
orthostasis versus vasovagal syncope. Commenced on midodrine 5mg 
and up-titrated to 10mg TID. Although data from EEG would have 
been preferable, due to patient's refusal to partake in further 
investigation, the decision was made to transition towards 
discharge. Patient will discharged on midodrine 10mg TID.

# Elevated D-dimer
Patient was found to have an elevated D-dimer of 1019 on 
admission. Well's score of 1.5, correlating with low risk for 
PE. EKG without right ventricular strain, right axis deviation, 
sinus tachycardia or S1Q3T3 pattern. Patient without shortness 
of breath, tachycardia or tachypnea. History of IVC filter, 
confirmed in place on CXR. Decision was made not to proceed with 
CTA given low likelihood for PE.

# Disposition
Ivis, daughter in law, has been the point of contact for 
patient. Spoke in length in hospital on ___. Patient lives 
with wife and two sons. She visits daily to ensure all is ok, 
but feels both patient and wife could do with more support. 
Patient adamantly declines long-term care, and daughter in law 
confirms he will not agree to same. Believes he and his wife 
would benefit from visiting nurse/health aide. ___ feel patient 
is safe for discharge home as long as safe home environment with 
good caretaker support. Nurse spoke with daughter who would 
prefer both parents to move to ___ where she lives, but 
patient not amenable to this. From review of ___ records, the 
idea regarding moving to ___ had been put forward in 
___, with seemingly no progress made. There was some concern 
patient may be better served in long term care given multiple 
presentations for falls at home. However, there was no suspicion 
for elder abuse. Extensive conversations were had with family 
including, son, daughter and daughter-in-law. Compromise was 
made for discharge home with 24 hour care by family and with 
home services. Family were all in agreement with this plan and 
the patient assented too. We recommend reconsideration of long 
term care should the patient require inpatient hospitalization 
due to failure to thrive at home. Spoke with son ___ at time 
of discharge, who lives at home and is able to provide 24hr care 
to both his mother and father. We spoke in length regarding his 
hospitalization, medications on discharge and strategies to 
prevent similar episodes occurring in the future. ___ was 
able to repeat these instructions to us and we are happy he will 
provide adequate care for his father.

======================
CHRONIC/STABLE ISSUES:
======================

# Dementia
Unknown etiology. ___ Cognitive Assessment (___) score 
___, Mini-mental Status Exam (MMSE) score ___ in ___. 
Physical therapy evaluated and said that patient is okay to 
return home as long as he has a stable, safe home environment to 
return to with good caretakers. Patient was at baseline, as per 
daughter in law, during admission.

# Chronic kidney disease
Unknown etiology. Creatinine this admission ranging from 
1.2-1.3. Apparent baseline of 1.1-1.4

# Medication reconciliation
Unable to verify PAML since admission. Daughter in law unsure of 
pharmacy patient attended in the past, but reports 
non-compliance with all medications at home.

====================
TRANSITIONAL ISSUES:
====================

- discharge BP 116/70
- discharge orthostatic: lying 133/71, standing 105/62, repeat 
standing 124/61

MEDICATION CHANGES:
[] started midodrine 10mg three times a day
[] started docusate 100mg two times a day
[] started senna 8.6mg two times a day as required

[] 12mm suprasellar mass on CTA head/neck; MRI with/without 
contrast and neuro-oncology follow-up to be decided in 
discussion with PCP and family
[] Dental caries highlighted on CTA head/neck; would recommend 
outpatient dental follow-up
[] Follow-up with new PCP as arranged
[] Follow-up with neurology for possible neurological cause of 
symptoms as arranged
[] Consider outpatient ACTH stimulation test; although we 
believe adrenal insufficiency to be an unlikely diagnosis
[] Patient did not tolerate further labs/work-up including EEG
[] Recommend repeat orthostatic vitals in clinic with titration 
of midodrine as appropriate 
[] Blood culture pending at discharge, follow-up in clinic

================================================
# CODE STATUS: Full, presumed
# CONTACT: Ivis, daughter-in-law, number: ___
 
Medications on Admission:
Unable to verify home medications, but informed patient is 
non-compliant with medications at home.
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth Two times daily 
Disp #*60 Tablet Refills:*0 
2.  Midodrine 10 mg PO TID 
RX *midodrine 10 mg 1 tablet(s) by mouth Three times a day Disp 
#*90 Tablet Refills:*0 
3.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth Two times daily 
as required Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Syncope - likely orthostatic hypotension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

WHY YOU CAME TO THE HOSPITAL
You were admitted to ___ following an episode of collapse, 
during which you fell to the ground.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL
- You had a number of scans which ruled out any evidence of 
injury
- Your pacemaker was reviewed and was found to be working well
- You had a scan of your heart, which did not show any cause for 
your collapse
- You had a further episode of collapse while walking with the 
physical therapist
- Your blood pressure readings showed a drop when moving from a 
lying/sitting to standing position, with subsequent collapse, 
which may be responsible for these episodes.

WHAT YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL
- You need to follow-up with a PCP to ensure you are receiving 
adequate care
- We would recommend follow-up with a neurologist

It was a pleasure taking care of you.

Your ___ Healthcare Team

MEDICATION CHANGES:
[] started midodrine 10mg three times a day
[] started docusate 100mg two times a day
[] started senna 8.6mg two times a day as required
 
Followup Instructions:
___